US03974141
C. 1-Benzenesulphonyl-2-oxo-imidazolidine: ##SPC71##
86 parts by weight of 2-oxo-imidazolidine, 194 parts by weight of benzenesulphonyl chloride, 800 parts by volume of tetrahydrofurane, 500 parts by volume of chloroform and 101 parts by weight of triethylamine were stirred overnight at 50°C and subsequently evaporated to dryness in vacuo. The residue was gradually added, while stirring, to 1,000 parts by volume of ice water, the mixture was filtered and the residue was recrystallized from ethanol.

reactant | 2-oxo-imidazolidine | O=C1NCCN1 | C3H6N2O
reactant | benzenesulphonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | tetrahydrofurane | O1CCCC1 | C4H8O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-Benzenesulphonyl-2-oxo-imidazolidine | C1(=CC=CC=C1)S(=O)(=O)N1C(NCC1)=O | C9H10N2O3S
